US06329381B1
3-(6-Amino-9-benzyl-2-purinyl)thiopropionic Acid
To sodium hydride (300 mg, 7.5 mmol 60% in mineral oil) were added DMF (10 ml), 3-mercaptopropionic acid (1 ml, 11 mmol) and 6-amino-9-benzyl-2-chloropurine (200 mg, 0.77 mmol) in order. The mixture was stirred at 100° C. for 5 hours. After addition of saturated brine, the reaction mixture was acidified with 2N hydrochloric acid and extracted with chloroform. The organic layer was dried on magnesium sulfate and concentrated in vacuo to dryness. The residue was purified with silica gel chromatography (4% methanol/chloroform) to give the subject compound (120 mg, yield 47%).

reactant | sodium hydride | 7.5 mmol, 300 mg | [H-].[Na+]
reactant | 3-mercaptopropionic acid | 11 mmol, 1 ml | SCCC(=O)O | C3H6O2S
reactant | 6-amino-9-benzyl-2-chloropurine | 0.77 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | brine | [Cl-].[Na+].O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(6-Amino-9-benzyl-2-purinyl)thiopropionic Acid | 120 mg, yield 47% | NC1=C2N=CN(C2=NC(=N1)CCC(=S)O)CC1=CC=CC=C1 | C15H15N5OS
